US07067506B2
Step 3: Benzyl-(3-methoxy-4-nitro-benzyl)-carbamic acid tert-butyl ester.
To a 150 mL round bottomed flask containing 0.92 g (3.4 mmol, 1 eq.) of N-benzyl-N-(3-methoxy-4-nitro-benzyl)-amine in 2 mL dichloromethane was added Boc anhydride (0.74 g, 3.4 mmol, 1 eq.) then stirred at room temperature for 18 h. The reaction mixture was then partitioned between 40 mL water and 40 mL ethyl acetate. The organic phase was dried over MgSO4 and concentrated. No further purification was necessary. 1H NMR (400 MHz, CDCl3): δ 1H NMR (400 MHz, CDCl3): δ7.81 (d, J=8.61 Hz, 1H), 7.2-7.3 (m, 6H), 6.93 (m, 1H), 6.82 (s, 1H), 4.39 (m, 4H), 3.88 (s, 3H), 1.53 (s, 9H).

reactant | N-benzyl-N-(3-methoxy-4-nitro-benzyl)-amine | 3.4 mmol, 0.92 g, 1 eq. | C(C1=CC=CC=C1)NCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H16N2O3
reactant | Boc anhydride | 3.4 mmol, 0.74 g, 1 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | Benzyl-(3-methoxy-4-nitro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC(=C(C=C1)[N+](=O)[O-])OC)CC1=CC=CC=C1)=O | C20H24N2O5
